US04806535
3-(4-FLUOROBENZOYL)PYRIDINE-4-CARBOXYLIC ACID
A mixture of 4-carbomethoxynicotinic acid (2.0 g, 11.04 mmol) in 20 mL of SOCl2 is heated to reflux for 4 hours, then allowed to cool. Evaporation of excess SOCl2 results in 4-carbomethoxynicotinoyl chloride HCl which is suspended in fluorobenzene (15 ml) and treated with AlCl3 (4.04 g, 30.3 mmol). After heating at reflux for 2 hours, the reaction is quenched with ice and neutralized with aqueous NaOH to generate a precipitate which is filtered. The aqueous fraction of the biphasic filtrate is separated, washed with several portions of EtOAc and acidified to pH 3.5 with 5% aqueous HCl to generate a white solid. The solid is collected by filtration, washed with H2O, and dried by suction to generate 3-(4-fluorobenzoyl)pyridine-4-carboxylic acid.

reactant | 4-carbomethoxynicotinic acid | 11.04 mmol, 2.0 g | C(=O)(OC)C1=CC=NC=C1C(=O)O | C8H7NO4
reactant | AlCl3 | 30.3 mmol, 4.04 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | fluorobenzene | 15 ml | FC1=CC=CC=C1 | C6H5F
solvent | SOCl2 | 20 mL | O=S(Cl)Cl | Cl2OS
product | 3-(4-FLUOROBENZOYL)PYRIDINE-4-CARBOXYLIC ACID | FC1=CC=C(C(=O)C=2C=NC=CC2C(=O)O)C=C1 | C13H8FNO3
